US07691882B2
5-(3-(4-(5-Chloro-furan-2-ylmethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a mixture of (4-(5-chloro-furan-2-ylmethyl)-phenyl)-acetohydroximoyl chloride (25 mg, 0.088 mmol) described in Manufacturing Example 62-1-6 and tetrahydrofuran (1 mL) were added 5-ethynyl-pyridin-2-ylamine (8.0 mg, 0.068 mmol) described in Manufacturing Example 28-1-3 and triethylamine (19 μL, 0.14 mmol), which was stirred for 1 hour at 50° C. The reaction mixture was allowed to room temperature, and water was added to the system at the same temperature, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue thus obtained was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid) to obtain the title compound (1.6 mg, 4.9%) as a trifluoroacetic acid salt.

reactant | (4-(5-chloro-furan-2-ylmethyl)-phenyl)-acetohydroximoyl chloride | 0.088 mmol, 25 mg | ClC1=CC=C(O1)CC1=CC=C(C=C1)CC(=NO)Cl | C13H11Cl2NO2
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | 5-ethynyl-pyridin-2-ylamine | 0.068 mmol, 8.0 mg | C(#C)C=1C=CC(=NC1)N | C7H6N2
reactant | triethylamine | 0.14 mmol, 19 μL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 5-(3-(4-(5-Chloro-furan-2-ylmethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 1.6 mg, 4.9% | ClC1=CC=C(O1)CC1=CC=C(CC2=NOC(=C2)C=2C=CC(=NC2)N)C=C1 | C20H16ClN3O2
